US07863302B2
(6-bromo-benzo[b]thiophene-2-yl)-methanol
A −78° C. solution of 6-bromo-benzo[b]thiophene-2-carboxylic acid ethyl ester (5.75 g; 20.2 mmol) in THF (200 mL) is treated with diisobutylaluminum hydride (50.4 mL; 1.0 M) dropwise. The mixture is stirred at 0° C. for 10 minutes and quenched with HCl (1 M, 50 mL). The mixture is extracted with EtOAc (150 mL). The organic layer is dried over Na2SO4, filtered, and concentrated under reduced pressure. The crude product is purified via flash chromatography eluting with 25% EtOAc/Hexanes. The appropriate fractions are combined and concentrated under reduced pressure to afford the title compound (2.92 g, 60%). 1H NMR (400 MHz, CDCl3): δ 7.95 (s, 1H), 7.68 (d, 1H), 7.42 (d, 1H), 7.18 (s, 1H), 4.90 (s, 2H).

reactant | 6-bromo-benzo[b]thiophene-2-carboxylic acid ethyl ester | 20.2 mmol, 5.75 g | C(C)OC(=O)C1=CC2=C(S1)C=C(C=C2)Br | C11H9BrO2S
reactant | diisobutylaluminum hydride | 1.0 M, 50.4 mL | [H-].C(C(C)C)[Al+]CC(C)C
solvent | THF | 200 mL | C1CCOC1 | C4H8O
product | (6-bromo-benzo[b]thiophene-2-yl)-methanol | 2.92 g, 60% | BrC=1C=CC2=C(SC(=C2)CO)C1 | C9H7BrOS
